US07838130B2
Added to a mixed solution of 30.53 g (124.08 mmol, purity: 90.4%) of 1-(bromomethyl)naphthalene and 180 ml of dehydrated dioxane was 30.27 g (151.89 mmol) of 1-(3,4-dihydronaphthalene-2-yl)pyrrolidine, and the mixture was stirred for 5 hours while heating and refluxing. After cooled down to room temperature, 100 ml of a 5% hydrochloric acid aqueous solution was dropwise added to the reaction mixture and stirred, and the mixture was extracted twice with dichloromethane. The organic phase was dried on anhydrous sodium sulfate and filtered, and then the solvent was removed by distillation. A crude product obtained was refined by column chromatograph (silica gel: hexane/ethyl acetate=10/1) to obtain 20.47 g (purity: 51.8%) of 1-(naphthalene-1-ylmethyl)-3,4-dihydronaphthalene-2(1H)-one.

reactant | 1-(bromomethyl)naphthalene | 124.08 mmol, 30.53 g | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
reactant | dioxane | 180 ml | O1CCOCC1 | C4H8O2
reactant | 1-(3,4-dihydronaphthalene-2-yl)pyrrolidine | 151.89 mmol, 30.27 g | C1=C(CCC2=CC=CC=C12)N1CCCC1 | C14H17N
reactant | hydrochloric acid | Cl | ClH
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-(naphthalene-1-ylmethyl)-3,4-dihydronaphthalene-2(1H)-one | 20.47 g | C1(=CC=CC2=CC=CC=C12)CC1C(CCC2=CC=CC=C12)=O | C21H18O
